US06140351
In a manner similar to Paragraph A above, N-(5-chloropyridin-2-yl)-2-[((4-(chloromethyl)-3-chlorothiophen-2-yl)carbonyl)amino]-3-methoxy-5-chlorobenzamide (2.0 g, 4.0 mmol) was reacted with 2-aminoimidazole (1.3 g, 16 mmol) to give N-(5-chloropyridin-2-yl)-2-[((4-((2-aminoimidazol-1-yl)methyl)-3-chlorothiophen-2-yl)carbonyl)amino]-3-methoxy-5-chlorobenzamide, which was purified by HPLC on a C18 Vydac column with acetonitrile in water gradient with 0.1% trifluoroacetic acid to afford N-(5-chloropyridin-2-yl)-2-[((4-((2-aminoimidazol-1-yl)methyl)-3-chlorothiophen-2-yl)carbonyl)amino]-3-methoxy-5-chlorobenzamide, trifluoroacetic acid salt, as a white solid; NMR (DMSO-d6 /TFA) 10.9 (s, 1), 10.4 (s, 1), 8.3 (d, 1), 8.1 (d, 1), 7.9 (dd, 1), 7.8 (br, 1), 7.6 (s, 1), 4 (d, 1), 7.3 (d, 1), 6.9 (dt, 1), 5.0 (s, 2), 4.8 (s, 3) ppm.

reactant | N-(5-chloropyridin-2-yl)-2-[((4-(chloromethyl)-3-chlorothiophen-2-yl)carbonyl)amino]-3-methoxy-5-chlorobenzamide | 4.0 mmol, 2.0 g | ClC=1C=CC(=NC1)NC(C1=C(C(=CC(=C1)Cl)OC)NC(=O)C=1SC=C(C1Cl)CCl)=O | C19H13Cl4N3O3S
reactant | 2-aminoimidazole | 16 mmol, 1.3 g | NC=1NC=CN1 | C3H5N3
product | N-(5-chloropyridin-2-yl)-2-[((4-((2-aminoimidazol-1-yl)methyl)-3-chlorothiophen-2-yl)carbonyl)amino]-3-methoxy-5-chlorobenzamide | ClC=1C=CC(=NC1)NC(C1=C(C(=CC(=C1)Cl)OC)NC(=O)C=1SC=C(C1Cl)CN1C(=NC=C1)N)=O | C22H17Cl3N6O3S
